US06544985B2
8-Chloro-7-(cyclopropyl-methyl-amino)-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-amino-4-chloro-5-(cyclopropyl-methyl-amino)-phenyl]-carbamic acid tert.-butyl ester (Example J11) (156 mg, 0.5 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K4) (170 mg, 0.56 mmol) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (49 mg).

reactant | [2-amino-4-chloro-5-(cyclopropyl-methyl-amino)-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 156 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C1CC1)Cl)N)=O | C15H22ClN3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 0.56 mmol, 170 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-(cyclopropyl-methyl-amino)-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)C)=O)C1)N(C)C1CC1 | C23H21ClN4O2
